US06838463B2
In 24 ml of tetrahydrofuran was suspended 1.05 g of sodium hydride (60% in oil), to which 8 ml of a tetrahydrofuran solution containing 1.42 g of 2-butyn-1-ol was slowly added dropwise with stirring at room temperature. The mixture was stirred at room temperature for 20 minutes and then cooled to 0° C., to which 8 ml of a tetrahydrofuran solution containing 3 g of 4,6-dichloropyrimidine was slowly added dropwise, followed by further stirring at 0° C. for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 3.16 g of 4-chloro-6-(2-butynyloxy)pyrimidine, m.p.: 43.5° C.

reactant | sodium hydride | 1.05 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 1.42 g | C(C#CC)O | C4H6O
reactant | 4,6-dichloropyrimidine | 3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(2-butynyloxy)pyrimidine | 3.16 g | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
